US04415580
A mixture containing 33.2 g of 5-acetyl-1,2-dihydro-6-(2-dimethylaminoethenyl)-2-oxo-3-pyridincarbonitrile, 32.1 g of formamidine acetate and 300 ml of dimethylformamide was heated in a oil bath at 120°-130° C. for 3 hours, the original yellow solid dissolving and dark solution resulting. The reaction mixture was evaporated to dryness and then treated with 400 ml of water followed by 30 ml of acetic acid. The resulting insoluble solid was collected, washed with water, air-dried, recrystallized from dimethylformamide and dried at 90° C. to yield 27.4 g of 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carbonitrile as a compound containing 1/2 mole of dimethylformamide, m.p. 278°-280° C. with decomposition.

reactant | 5-acetyl-1,2-dihydro-6-(2-dimethylaminoethenyl)-2-oxo-3-pyridincarbonitrile | 33.2 g | C(C)(=O)C=1C=C(C(NC1C=CN(C)C)=O)C#N | C12H13N3O2
reactant | formamidine acetate | 32.1 g | C(C)(=O)O.C(=N)N
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carbonitrile | 27.4 g | CC1=C2C=C(C(NC2=CC=N1)=O)C#N | C10H7N3O
